US04729991
7-[2-(2-Formamido-5-bromothiazol-4-yl)-2-methoxyiminoacetamido]-3-(1,3,4-thiadiazol-2-ylthiomethyl)-3-cephem-4-carboxylic acid (syn isomer, 1.2 g.) was treated with conc. hydrochloric acid (2 ml.) in a similar manner to that of Example 1-(2) to give 7-[2-(2-amino-5-bromothiazol-4-yl)-2-methoxyiminoacetamido]-3-(1,3,4-thiadiazol-2-ylthiomethyl)-3-cephem-4-carboxylic acid hydrochloride (syn isomer, 1.2 g.).

reactant | 7-[2-(2-Formamido-5-bromothiazol-4-yl)-2-methoxyiminoacetamido]-3-(1,3,4-thiadiazol-2-ylthiomethyl)-3-cephem-4-carboxylic acid | 1.2 g | C(=O)NC=1SC(=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC=2SC=NN2)C(=O)O)C1=O)=NOC)Br | C17H14BrN7O6S4
reactant | hydrochloric acid | 2 ml | Cl | ClH
product | 7-[2-(2-amino-5-bromothiazol-4-yl)-2-methoxyiminoacetamido]-3-(1,3,4-thiadiazol-2-ylthiomethyl)-3-cephem-4-carboxylic acid hydrochloride | 1.2 g | Cl.NC=1SC(=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC=2SC=NN2)C(=O)O)C1=O)=NOC)Br | InChI=1S/C16H14BrN7O5S4.ClH/c1-29-23-7(6-10(17)33-15(18)21-6)11(25)20-8-12(26)24-9(14(27)28)5(2-30-13(8)24)3-31-16-22-19-4-32-16;/h4,8,13H,2-3H2,1H3,(H2,18,21)(H,20,25)(H,27,28);1H/t8?,13-;/m1./s1
